US05599984
4,4'-(ethylenedioxy)di-m-anisaldehyde (0.99 g), aminoguanidine hydrochloride (0.829 g), and aminoguanidine dihydrochloride (0.01 g) were heated in 95% methanol (10.5 mL) under nitrogen for 16 hr. Cooling and filtration gave 1.52 g of 4,4'-(ethylenedioxy)di-m-anisaldehyde bis(amidinohydrazone) dihydrochloride, mp 322°-3° C. dec.

reactant | 4,4'-(ethylenedioxy)di-m-anisaldehyde | 0.99 g | C(OC1=C(C=C(C=O)C=C1)OC)COC1=C(C=C(C=O)C=C1)OC | C18H18O6
reactant | aminoguanidine hydrochloride | 0.829 g | C(=N)(N)NN.Cl
solvent | methanol | 10.5 mL | CO | CH4O
catalyst | aminoguanidine dihydrochloride | 0.01 g | Cl.Cl.NNC(=N)N
product | 4,4'-(ethylenedioxy)di-m-anisaldehyde bis(amidinohydrazone) dihydrochloride | 1.52 g | Cl.Cl.C(N)(=N)NN=CC1=CC(=C(C=C1)OCCOC1=C(C=C(C=NNC(N)=N)C=C1)OC)OC | InChI=1S/C20H26N8O4.2ClH/c1-29-17-9-13(11-25-27-19(21)22)3-5-15(17)31-7-8-32-16-6-4-14(10-18(16)30-2)12-26-28-20(23)24;;/h3-6,9-12H,7-8H2,1-2H3,(H4,21,22,27)(H4,23,24,28);2*1H
